US05246949
(2) Synthesis of 3,4-di-O-pivaloyl-N-carbobenzoxydopamine
To 150 ml of a pyridine solution containing 23.0 g (98 mmol) of N-carbobenzoxydopamine obtained in Synthetic Example 1-(1), was added 24.1 g (200 mmol) of pivaloyl chloride dropwise at 5° to 10° C. After stirring at room temperature for 12 hours, the mixture was allowed to react at 35° to 40° C. for 3 hours. Further, the reaction mixture was poured into ice and a sodium carbonate solution and the stirring was continued at room temperature for 30 minutes. After extracting with diethyl ether and drying over anhydrous magnesium sulfate, the solvent was distilled off to give crude crystals. The resulting crude crystals then recrystallized from petroleum ether to obtain 27.1 g (yield: 80.1%) of the desired compound in the form of white crystals

reactant | N-carbobenzoxydopamine | 98 mmol, 23.0 g | C(=O)(OCC1=CC=CC=C1)NCCC1=CC(O)=C(O)C=C1 | C16H17NO4
reactant | pivaloyl chloride | 200 mmol, 24.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-di-O-pivaloyl-N-carbobenzoxydopamine | 27.1 g, yield: 80.1% | C(C(C)(C)C)(=O)OC=1C=C(CCNC(=O)OCC2=CC=CC=C2)C=CC1OC(C(C)(C)C)=O | C26H33NO6
